US04540780
To an ice-cooled suspension of LiAlH4 (10.31 g, 0.27 mole) in THF (100 ml), a solution of 1-piperidine-propanamide, 4-(diphenylmethylene) 29.01 g, 0.091 mole) in THF (100 ml) was added dropwise. After stirring for 0.5 hours, the ice-bath was removed, the reaction mixture refluxed for six hours, quenched (EtOAc and 10% NaOH) and the resulting granular precipitate removed by filtration. The filtrate was concentrated to ca 20 ml, dissolved in CHCl3, washed with H2O, and the solvent removed to give a yellow-green oil. This was dissolved in MeOH, treated with HCl gas and the solvent evaporated. The residue crystallized from CH2Cl2 -Et2O to give 1-piperidinepropaneamine, 4-(diphenylmethylene)dihydrochloride hemihydrate as white solid in quantitative yield; mp 249°-252° C.

reactant | LiAlH4 | 0.27 mole, 10.31 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 1-piperidine-propanamide | N1(CCCCC1)CCC(=O)N | C8H16N2O
reactant | HCl | Cl | ClH
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
product | 1-piperidinepropaneamine | quantitative yield | N1(CCCCC1)CCCN | C8H18N2
